US08476434B2
To 2-chloro-4-(2-chloro-pyridin-3-yl)-5-fluoro-pyrimidine (178 mg, 0.73 mmol) and methylamine hydrochloride (74 mg, 1.1 mmol) was added K2CO3 (202 mg, 1.46 mmol) and DMSO (1.5 mL). The mixture was heated overnight in a sealed tube at 55° C. The mixture was cooled to RT, diluted with EtOAc and water, then neutralized with TFA (pH˜6-7). The organic layer was washed several times with water, dried over Na2SO4, filtered and concentrated to yield [4-(2-chloro-pyridin-3-yl)-5-fluoro-pyrimidin-2-yl]-methyl-amine. MS m/z=239 [M+1]+. Calc'd for C10H8ClFN4: 238.65.

reactant | 2-chloro-4-(2-chloro-pyridin-3-yl)-5-fluoro-pyrimidine | 0.73 mmol, 178 mg | ClC1=NC=C(C(=N1)C=1C(=NC=CC1)Cl)F | C9H4Cl2FN3
reactant | methylamine hydrochloride | 1.1 mmol, 74 mg | Cl.CN
reactant | K2CO3 | 1.46 mmol, 202 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | TFA | pH˜6-7 | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
solvent | DMSO | 1.5 mL | CS(=O)C | C2H6OS
product | [4-(2-chloro-pyridin-3-yl)-5-fluoro-pyrimidin-2-yl]-methyl-amine | ClC1=NC=CC=C1C1=NC(=NC=C1F)NC | C10H8ClFN4
